US04668682
To a suspension of 9.8 g (50 mmol) of 5-isopropoxy-2-aminobenzoic acid and 11.0 g (80 mmol) of potassium carbonate in a mixed solvent of acetone (40 ml) and water (40 ml), 10.5 g (50 mmol) of 2,5-dimethoxyphenylacetic acid chloride were added dropwise at 10° C. After the resulting reaction mixture was stirred under ice cooling for 1 hour, stirring was continued for further 2 hours at room temperature. The thus obtained solution was made acidic with conc. hydrochloric acid and extracted with dichloromethane. After the extract was dried over magnesium sulfate, the solvent was distilled off to obtain 14.0 g (75%) of 2-(2,5-dimethoxyphenylacetylamino)-5-isopropoxybenzoic acid (m.p. 132°-135° C.). Then the thus obtained acid was heated under reflux for 2 hours in acetic anhydride (100 ml), followed by concentration under reduced pressure. The resulting residue was purified by silica gel column chromatography (eluent: dichloromethane) to obtain 6.8 g of 2 -(2,5-dimethoxyphenylmethyl)-6-isopropoxy-4H-3,1-benzoxazine-4-one (yield from 5-isopropoxy-2-aminobenzoic acid: 36%)

reactant | 5-isopropoxy-2-aminobenzoic acid | 50 mmol, 9.8 g | C(C)(C)OC=1C=CC(=C(C(=O)O)C1)N | C10H13NO3
reactant | potassium carbonate | 80 mmol, 11.0 g | C([O-])([O-])=O.[K+].[K+]
reactant | 2,5-dimethoxyphenylacetic acid chloride | 50 mmol, 10.5 g | COC1=C(C=C(C=C1)OC)CC(=O)Cl | C10H11ClO3
reactant | hydrochloric acid | Cl | ClH
solvent | water | 40 ml | O | H2O
solvent | acetone | 40 ml | CC(=O)C | C3H6O
product | 2-(2,5-dimethoxyphenylacetylamino)-5-isopropoxybenzoic acid | 14.0 g, 75% | COC(C(=O)NC1=C(C(=O)O)C=C(C=C1)OC(C)C)C1=CC=CC(=C1)OC | C20H23NO6
